Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
IV Dye, Iodine Containing / Erythromycin Base
 
Attending: ___
 
Chief Complaint:
abdominal pain, nausea / vomiting, pelvic mass
 
Major Surgical or Invasive Procedure:
1. Exploratory Laparotomy, Total Abdominal Hysterectomy, 
Bilateral Salpingo-oophorectomy
2. Intubation

 
History of Present Illness:
The patient is a ___ y/o F with PMHx significant for HTN, asthma, 
CAD s/p MI in ___, and DM2, who presented with worsening 
abdominal pain, nausea and vomiting after discharge from an OSH. 
Patient was found to have a 15 cm RLQ mass at OSH and was 
initially scheduled for outpatient follow-up with Dr. ___.
 
Past Medical History:
OBGynHx: G3P3
SVD x3
denies abnormal Pap, gyn surgery

PMH:
T2DM, insulin dependent
HTN
hx MI ___ s/p balloon angioplasty complicated by R groin 
infection requiring vascular surgery, ?no residual heart dz 
hyperlipidemia 
asthma
depression

PSH:
balloon angioplasty, no stent
R groin vascular surgery
LSC CCY
 
Social History:
___
Family History:
Daughter ___ with ovarian CA age ___, s/p surgery, now ___ and 
healthy
Brother died of jaw cancer
No other ovarian, breast, uterine, colon, cancers in family
 
Physical Exam:
(On admission)
VS 100.1 96 166/75 20 98%RA
A&O, NARD, appears stated age
Heart RRR
Lungs CTAB, no WRR
Abd soft, mildly distended with tympany, diffuse TTP mainly RLQ 
and epigastrium, no R/G, +BS
Pelvic deferred
Ext no edema, no calf TTP

 
Pertinent Results:
(On admission)
.
Pelvic U/S with Doppler (___): 1. Large complex cystic mass 
with thick septations and irregular wall in the right adnexa. 
The lesion is concerning for an ovarian neoplasm such as 
cystadenocarcinoma and surgical resection has to be considered. 
2. Both ovaries not identified; cannot exclude torsion. 
.
Echocardiogram (___): Normal biventricular cavity sizes with 
preserved global and regional biventricular systolic function. 
.
___: Current study demonstrates new left lower lobe 
opacity accompanied by pleural effusions that may potentially 
represent interval development of infectious process or 
aspiration. No evidence of pneumothorax or evidence of pulmonary 
edema. 

___: The ET tube tip is 4 cm above the carina. The NG tube 
tip is in the stomach.  There is still presence of complete 
consolidation of the left lower lung, but some aeration of the 
left upper lung is noted with decrease in the mediastinal shift. 
The right lower lobe consolidation continues to increase and is 
worrisome for developing infectious process

___: Right PICC line tip is at the level of cavoatrial 
junction/proximal right atrium and should be pulled back for 
approximately 1.5 cm. There is significant improvement of the 
left lung aeration. In contrary there is growing right lower 
lobe consolidation highly worrisome for pneumonia or aspiration 
pneumonia. The rest of the findings are unchanged. 

___: Previous left lung collapse has cleared in the left 
upper lobe and some of the lower, progressive improvement since 
___. Consolidation in the mid region of the right lung has 
increased apparently, while consolidation at the base has either 
improved or is now obscured by posteriorly collected right 
pleural effusion. Overall, findings point to compromised airway, 
presumably due to secretions. Mild-to-moderate cardiomegaly and 
pulmonary vascular congestion with mediastinal venous 
engorgement also indicate some cardiac decompensation, but I do 
not see edema. Small pleural effusion may be present 
on the left as well. ET tube is in standard placement, 
nasogastric tube 
passes below the diaphragm and out of view. Right PIC catheter 
can be traced to the mid SVC. 

___: There is mild-to-moderate cardiomegaly. The lungs are 
hyperinflated. Small bilateral pleural effusions are larger on 
the left side. Bibasilar atelectasis are improved. Mild 
pulmonary congestion has improved. Previously described right 
apical opacity has improved. There are no new lung 
abnormalities. Right PICC remains in place. 
.
Bilateral LENIS ___: IMPRESSION: No DVT in both lower 
extremities.
.
___ 08:59PM BLOOD WBC-23.3* RBC-4.74 Hgb-15.2 Hct-43.6 
MCV-92 MCH-32.0 MCHC-34.8 RDW-12.8 Plt ___
___ 06:35AM BLOOD WBC-25.2* RBC-4.32 Hgb-13.6 Hct-40.1 
MCV-93 MCH-31.5 MCHC-33.9 RDW-12.9 Plt ___
___ 06:10PM BLOOD WBC-34.1* RBC-4.12* Hgb-12.8 Hct-39.2 
MCV-95 MCH-31.1 MCHC-32.6 RDW-12.9 Plt ___
___ 03:36AM BLOOD WBC-25.7* RBC-4.45 Hgb-13.8 Hct-39.2 
MCV-88# MCH-31.1 MCHC-35.3* RDW-12.7 Plt ___
___ 05:10AM BLOOD WBC-15.0* RBC-3.97* Hgb-12.2 Hct-37.6 
MCV-95# MCH-30.8 MCHC-32.5 RDW-12.7 Plt ___
___ 06:45AM BLOOD WBC-15.5* RBC-3.85* Hgb-11.7* Hct-36.2 
MCV-94 MCH-30.4 MCHC-32.3 RDW-12.8 Plt ___
___ 04:45AM BLOOD WBC-13.9* RBC-3.43* Hgb-10.6* Hct-32.5* 
MCV-95 MCH-30.8 MCHC-32.6 RDW-13.0 Plt ___
___ 03:11AM BLOOD WBC-15.9* RBC-3.37* Hgb-10.4* Hct-30.3* 
MCV-90 MCH-31.0 MCHC-34.4 RDW-13.0 Plt ___
___ 04:09AM BLOOD WBC-17.5* RBC-3.31* Hgb-10.1* Hct-29.9* 
MCV-91 MCH-30.7 MCHC-33.9 RDW-13.0 Plt ___
___ 05:33AM BLOOD WBC-20.3* RBC-3.30* Hgb-10.2* Hct-29.9* 
MCV-91 MCH-30.8 MCHC-34.0 RDW-13.0 Plt ___
___ 06:40AM BLOOD WBC-20.6* RBC-3.28* Hgb-9.8* Hct-29.7* 
MCV-91 MCH-30.0 MCHC-33.1 RDW-13.1 Plt ___
___ 06:32AM BLOOD WBC-10.6 RBC-3.21* Hgb-9.6* Hct-29.5* 
MCV-92 MCH-29.8 MCHC-32.5 RDW-13.1 Plt ___
___ 06:30AM BLOOD WBC-10.9 RBC-3.22* Hgb-9.8* Hct-30.2* 
MCV-94 MCH-30.5 MCHC-32.4 RDW-13.2 Plt ___
___ 06:35AM BLOOD CK-MB-1 cTropnT-<0.01
___ 06:10PM BLOOD CK-MB-1 cTropnT-<0.01
___ 03:36AM BLOOD CK-MB-1 cTropnT-<0.01
___ 11:58PM BLOOD CK-MB-2 cTropnT-<0.01
___ 04:45AM BLOOD cTropnT-<0.01
___ 06:57AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:11PM BLOOD cTropnT-<0.01
___ 12:52AM BLOOD %HbA1c-14.7* eAG-375*
___ 10:50AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE
___ 10:50AM BLOOD CEA-9.3*
___ 10:50AM BLOOD HIV Ab-NEGATIVE
___ 06:40AM BLOOD Vanco-14.9
___ 07:11PM BLOOD Vanco-22.1*
___ 10:50AM BLOOD HCV Ab-NEGATIVE

 
Brief Hospital Course:
___ year old female with HTN, asthma, CAD s/p MI in ___, and 
DM2, who was admitted to the hospital with worsening abdominal 
pain, nausea and vomiting with right sided pelvic mass. She 
underwent a total abdominal hysterectomy with BSO for torsed 
ovarian cyst. 

*) Pulmonary: Ms. ___ post-operative course was complicated 
by an extended oxygen requirement necessitating admission to the 
FICU on POD#0 and again on POD# 2. She was ultimately intubated 
in the FICU and started on IV antibiotics for presumed 
aspiration and hospital acquired pneumonia. She was ultimately 
extubated on ___ and her oxygen requirement decreased. On 
transfer to the floor, she was only requiring nasal canula 
during the day and CPAP at night. Her pulmonary status continued 
to improve and she was completely weaned off O2. Medicine was 
asked to consult to help optimize her COPD. She was started and 
mainatined on Advair, Spiriva and Albuterol.

*) Infectious Disease: Ms. ___ was diagnosed with a hospital 
acquired pneumonia and aspiration. She was initially placed on 
unasyn in the FICU, but transitioned to Cipro/Vanc/Zosyn. Her 
leukocytosis initially improved, but on ___ her WBC again 
trended up. ID was asked to consult and the recommendation was 
made to transition to Vancomycin and Meropenem. Her WBC improved 
and she remained afebrile. She completed a 12 day course of 
Vancomycin and 7 day course of Meropenem. She was treated with 1 
dose of Diflucan for a positive yeast urine culture. Her blood 
cultures were negative. 

*) Ovarian Mass: She was found to have right ovarian torsion as 
well as a benign left ovarian mass.  She was treated surgically 
with TAH-BSO on ___.  She did well from a surgical 
standpoint post-operatively. She was voiding, ambulating and 
tolerating a regular diet prior to discharge.

*) Hypertension/Hx of MI: Ms. ___ was started on Metoprolol 
for hypertension. Her blood pressures remained well controlled. 
She was also started on a statin and baby ASA for 
cardio-protection.

*) DM2: Uncontrolled HgbA1C greater than 13%. Her fingersticks 
were monitored and she was started on an insulin regimen 
including ___ lantus and humalog with meals. Her blood sugars 
were under much better control. She will continue this regimen 
as an outpatient and follow-up with her PCP. 

*) Depression: Patient was initially started on Paxil, but then 
transitioned to Zoloft 50mg which she stated had worked for her 
in past. 

*) Tobacco Abuse: we continued a nicotine patch

 
Medications on Admission:
Humalog 75/25, 30AM/40PM
Paxil 40 daily
albuterol prn (usually ___ daily)
Vicodin prn 
 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).
Disp:*30 Tablet, Chewable(s)* Refills:*1*
2. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*1*
3. hydromorphone 2 mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
4. nicotine 7 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).
Disp:*30 Patch 24 hr(s)* Refills:*1*
5. fluticasone-salmeterol 250-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).
Disp:*1 Disk with Device(s)* Refills:*1*
6. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*1*
7. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).
Disp:*30 Cap(s)* Refills:*1*
8. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for shortness 
of breath/wheeze.
Disp:*1 inhaler* Refills:*2*
9. ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
10. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*
11. lancets     Misc Sig: One (1) lancet Miscellaneous four 
times a day.
Disp:*120 lancets* Refills:*1*
12. Insulin Syringe 1 mL 28 x ___  Syringe Sig: One (1) syringe 
Miscellaneous four times a day.
Disp:*120 syringes* Refills:*2*
13. sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*1*
14. insulin glargine 100 unit/mL Solution Sig: Twenty (20) units 
Subcutaneous QHS: Patient to take 20 units QHS.
Disp:*1 vials* Refills:*1*
15. Humalog 100 unit/mL Solution Sig: ___ units Subcutaneous 
with meals: Patient to take : 
9 units with breakfast
7 units with lunch 
7 units with dinner.
Disp:*1 vials* Refills:*1*
16. FreeStyle Lite Strips     Strip Sig: One (1) strip 
Miscellaneous four times a day.
Disp:*120 strips* Refills:*1*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Ovarian cyst with torsion
Pneumonia
COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call your doctor for:
* fever > 100.4
* severe abdominal pain
* difficulty urinating
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

General instructions:
* Monitor your finger sticks four times daily (prior to each 
meal and prior to bed). Record these fingersticks and bring this 
information to your PCP who will help adjust your insulin. 
* You should take 20 units of Lantus before bed.
* You will also need to take humalog with meals. With breakfast 
take
  9 units, 7 units with lunch and 7 units with dinner. 
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Do not combine narcotic and sedative medications or alcohol
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs
* No strenuous activity, no heavy lifting of objects >10lbs for 
6
  weeks. 
* You may eat a regular diet.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision.  No bath tubs for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.
 
Followup Instructions:
___